US05102568
Preparation of 2-(2-mercapto-1,3,4-thiadiazol-5-ylthio)-succinic anhydride
A mixture of 95 grams (0.5 moles) of 2,5-dimercapto-1,3,4-thiadiazole and 49.0 grams (0.5 moles) of maleic anhydride in 500 ml. tetrahydrofuran was refluxed for six hours. After distilling off the solvent, a light tan solid (123 g.) was obtained (m.p. 194°-196° C.). Its infrared spectrum and elemental analysis appeared to be consistent with the proposed structure.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 0.5 moles, 95 grams | SC=1SC(=NN1)S | C2H2N2S3
reactant | maleic anhydride | 0.5 moles, 49.0 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-mercapto-1,3,4-thiadiazol-5-ylthio)-succinic anhydride | SC=1SC(=NN1)SC1C(=O)OC(C1)=O | C6H4N2O3S3
